US04230624
To a solution of 0.1 mol of o-cresol propionate in 150 cc of CCl4 are added, with ultraviolet irradiation, in small fractions, and in proportion with the decoloration, 0.22 mol of bromine in 30 cc of CCl4, the solvent is removed and the residue is distilled under reduced pressure. The 1-propionoxy-2-bromomethylbenzene is obtained:

reactant | o-cresol propionate | 0.1 mol | C(CC)(=O)OC1=CC=CC=C1C | C10H12O2
reactant | bromine | 0.22 mol | BrBr | Br2
solvent | CCl4 | 150 cc | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 30 cc | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-propionoxy-2-bromomethylbenzene | yield 65% | C(CC)(=O)OC1=C(C=CC=C1)CBr | C10H11BrO2
